US08492405B2
tert-butyl 4-(aminomethyl)-4-(benzylthio)piperidine-1-carboxylate
To a mixture of lithium aluminum hydride (0.4 g) and diethyl ether (20 mL) was added a solution of tert-butyl 4-(benzylthio)-4-(nitromethyl)piperidine-1-carboxylate (1.28 g) in diethyl ether (5 mL) at 0° C. The reaction mixture was heated under reflux for 1 hr. Ethyl acetate was added to decompose excess lithium aluminum hydride, and then water was added. The reaction mixture was diluted with a mixed solvent of tetrahydrofuran and ethyl acetate, and the inorganic salt was removed by filtration. The filtrate was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (0.33 g, yield 28%) as a colorless oil from a fraction eluted with ethyl acetate-methanol (2:1, volume ratio).

reactant | lithium aluminum hydride | 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl 4-(benzylthio)-4-(nitromethyl)piperidine-1-carboxylate | 1.28 g | C(C1=CC=CC=C1)SC1(CCN(CC1)C(=O)OC(C)(C)C)C[N+](=O)[O-] | C18H26N2O4S
reactant | water | O | H2O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | tert-butyl 4-(aminomethyl)-4-(benzylthio)piperidine-1-carboxylate | 0.33 g, yield 28% | NCC1(CCN(CC1)C(=O)OC(C)(C)C)SCC1=CC=CC=C1 | C18H28N2O2S
